US08044049B2
Production of N-[6-(4-fluoro-3-{[(methoxyamino)carbonyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
A solution of 1,1′-carbonyldiimidazole (297 mg, 1.833 mmol), O-methylhydroxyammonium chloride (153 mg, 1.833 mmol) and triethylamine (0.25 mL, 1.833 mmol) in N,N-dimethylformamide (4.0 mL) was stirred at room temperature for 30 min. A solution of N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.611 mmol) in N,N-dimethylformamide (2.0 mL) was further added to the mixture, and the mixture was stirred at room temperature for 2 days. Under ice-cooling, aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was recrystallized from tetrahydrofuran/ethanol to give the title compound (67 mg, 27%) as colorless crystals.

reactant | 1,1′-carbonyldiimidazole | 1.833 mmol, 297 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-methylhydroxyammonium chloride | 1.833 mmol, 153 mg | [Cl-].CO[NH3+]
reactant | triethylamine | 1.833 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.611 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(4-fluoro-3-{[(methoxyamino)carbonyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 67 mg, 27% | FC1=C(C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1)NC(=O)NOC | C18H17FN6O4
